US08431563B2
The 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol hydrochloride (95 mg, 0.291 mmol) was dissolved in CH2Cl2 (15 mL) was chilled to 0° C. To this solution was added triethylamine (101 μL, 0.727 mmol) followed by 5-nitrothiophene-2-sulfonyl chloride (66.2 mg, 0.291 mmol, Enamine Building Blocks, Kiev, Ukraine). The mixture was warmed slowly to room temperature and stirred for 2 h. Afterwards, the mixture was concentrated onto silica gel and then purified via column chromatography (24 g silica gel, 0 to 10% MeOH in CH2Cl2) to give racemic 2-(2-((2S)-4-((5-nitro-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol (108 mg).

reactant | 1,1,1-trifluoro-2-(2-((2S)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-2-propanol hydrochloride | 0.291 mmol, 95 mg | Cl.FC(C(C)(O)C=1C=NC(=NC1)N1[C@H](CNCC1)C)(F)F
reactant | triethylamine | 0.727 mmol, 101 μL | C(C)N(CC)CC | C6H15N
reactant | 5-nitrothiophene-2-sulfonyl chloride | 0.291 mmol, 66.2 mg | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)Cl | C4H2ClNO4S2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | racemic 2-(2-((2S)-4-((5-nitro-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol | 108 mg | [N+](=O)([O-])C1=CC=C(S1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C)O)C | C16H18F3N5O5S2
